US05591752
2-(7-Chloroquinolin-2-yl)methoxy-11-(2-cyanoethylthio)-6,11-dihydrodibenz[b,e]oxepine
Under ice cooling and stirring, 1.35 ml of phosphorus oxy-chloride was added dropwise over 40 minutes to 1.78 g of 11-(2-carbamoylethylthio)-2-(7-chloroquinolin-2-yl)methoxy-6,11-dihydrodibenz[b,e]oxepine obtained in Reference example 63 dissolved in 14 ml of dimethylformamide and the mixture was stirred at the same temperature for 30 minutes. The reaction mixture was added 250 ml of a 1% sodium hydroxide aqueous solution, crystals precipitated were collected by filtration and the crystals were dissolved in chloroform. After this chloroform solution was washed with water and dried over anhydrous sodium sulfate, the solvent was removed to obtain 1.62 g of the title compound.

reactant | phosphorus oxy-chloride | 1.35 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 11-(2-carbamoylethylthio)-2-(7-chloroquinolin-2-yl)methoxy-6,11-dihydrodibenz[b,e]oxepine | C(N)(=O)CCSC1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)OCC2=NC3=CC(=CC=C3C=C2)Cl | C27H23ClN2O3S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dimethylformamide | 14 ml | CN(C=O)C | C3H7NO
product | 2-(7-Chloroquinolin-2-yl)methoxy-11-(2-cyanoethylthio)-6,11-dihydrodibenz[b,e]oxepine | 1.62 g | ClC1=CC=C2C=CC(=NC2=C1)COC1=CC2=C(OCC3=C(C2SCCC#N)C=CC=C3)C=C1 | C27H21ClN2O2S
